US09169259B2
A solution of 4-bromo-6-phenylpyridazin-3-amine (1.2 g, 4.8 mmol), 2-chloro-1,1-diethoxyethane (0.884 g, 5.74 mmol), PTSA (1.09 g, 5.74 mmol) in isopropanol (25 mL) was heated to 80° C. for 40 h. After cooling to room temperature, the solution was concentrated in vacuo. The resulting mixture was treated with a saturated aq. NaHCO3 solution (50 mL), extracted with dichloromethane (50 mL×3), dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give 8-bromo-6-phenylimidazo[1,2-b]pyridazine (0.6 g, 46%) as a white solid. LC-MS: [M+H]+, 274.0, tR=1.541 min.

reactant | 4-bromo-6-phenylpyridazin-3-amine | 4.8 mmol, 1.2 g | BrC1=C(N=NC(=C1)C1=CC=CC=C1)N | C10H8BrN3
reactant | 2-chloro-1,1-diethoxyethane | 5.74 mmol, 0.884 g | ClCC(OCC)OCC | C6H13ClO2
reactant | PTSA | 5.74 mmol, 1.09 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 8-bromo-6-phenylimidazo[1,2-b]pyridazine | 0.6 g, 46% | BrC=1C=2N(N=C(C1)C1=CC=CC=C1)C=CN2 | C12H8BrN3
